data/specific_train_final.csv
"[H:1][O:2][O:3][CH2:4][CH:5]([C:6]([CH3:7])([CH2:8][O:9][N+:10](=[O:11])[O-:12])[O:13])[O:14][O:15][H:16]>>[H:1][O:2][O:3][CH2:4][CH:5][O:14][O:15][H:16].[CH3:7][C:6](=[O:13])[CH2:8][O:9][N+:10](=[O:11])[O-:12] 13-13,6; 5,6-13,6; 5,6-5",Room Temperature,Propagation,retroaddition
"CC(CO)(C=C)[O:20][O:21]N=O>>CC(CO)(C=C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH:21](CC)CCCCCC.[OH:10]>>[H:20][OH:10].CCCCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C(C)[O:20][O:21]N=O)O>>CCC(C(C)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](C(C)O)([O:22])OC.[OH:10].[O][O]>>[H:20][OH:10].CC([C:21](=[O:22])OC)O.[O][O] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(=O)OC[O:20][O:21]N=O>>CC(=O)OC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC1(C2CC1C(C(C2)O[O:10])(C)O)C>>[H:20][O:10]OC1CC2CC(C2(C)C)C1(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][O:7][O:6][CH2:5][CH:4]([C:3](=[CH:2][OH:1])[CH3:11])[O:9][O:10]>>[H:8][O:10][O:9][CH:4]([CH2:5][O:6][O:7])[C:3](=[CH:2][OH:1])[CH3:11] 10-8,10; 7,8-7; 7,8-8,10",Room Temperature,Propagation,abstraction
"CC1(C2CC1C(C(C2)O[O:20])(C)O)C.[N:10]=O>>CC1(C2CC1C(C(C2)O[O:20][N:10]=O)(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:13][O:14][O:15].[CH3:1][C:2](=[CH:8][C:9](=[O:12])[O:10][O:11])[CH2:3][O:4][N+:5](=[O:7])[O-:6]>>[H:13][O:14][O:15][O:11][O:10][C:9](=[O:12])[CH:8]=[C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 15-15,11; 11-11,15",Room Temperature,Termination,recombine
"c1ccccc1C(CO[N+]([O-])=O)O[O:10].[N:20]=[O]>>c1ccccc1C(CO[N+]([O-])=O)O[O:10][N:20]=[O] 10-10,20; 20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC(=O)CO[O:20].[N:10]=O>>CC(C)(C)OC(=O)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)OC(C)C[O:20][O:21]N=O>>CC(C)OC(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]OC(C)(C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(C)(C)O[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:21]1=[CH:20]C=C(C=C1)C.[OH:10]>>CC[C:21]1C=CC(=C[CH:20]1[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C1=CC=C(C=C1)[CH:10]CO[N+](=O)[O-].[O:20][O]>>C1=CC=C(C=C1)[CH:10](CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][C:9]([CH3:12])([CH:6]([CH2:7][OH:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13])[OH:11]>>[CH3:10][C:9]([CH3:12])([CH:6]([CH2:7][OH:8])[O:5][O:4][O:3])[OH:11].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC1(C2CCC(C1C2)(C[O:21][O:20][O])O)C.[N+](=O)[O-]>>CC1(C2CCC(C1C2)(C[O:21])O)C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:9][CH2:8][CH2:7][CH:6]([CH:10]([CH3:11])[O:12][N+:13](=[O:15])[O-:14])[O:5][O:4][O:3][N+:2](=[O:16])[O-:1]>>[CH3:9][CH2:8][CH2:7][CH:6]([CH:10]([CH3:11])[O:12][N+:13](=[O:15])[O-:14])[O:5][O:4][O:3].[N+:2](=[O:16])[O-:1] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CC1(C2CCC(C1C2)([CH2:10])O[N+](=O)[O-])C.[O:20][O]>>CC1(C2CCC(C1C2)([CH2:10][O:20][O])O[N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C(C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(C)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][O:2][N+:3](=[O:4])[O-:5].[CH3:6][CH:7]([CH3:8])[C:9]=[O:10].[O:11][O:12]>>[H:1][O:2][N+:3](=[O:4])[O-:5].[CH3:6][CH:7]([CH3:8])[C:9](=[O:10])[O:12][O:11] 9-9,12; 12-9,12",Room Temperature,Termination,recombine
"CCCC(C(C)[O:20][O:21][O])O[N+](=O)[O-]>>CCCC(C(C)[O:20])O[N+](=O)[O-].[O:21][O] 20,21-20;20,21-2",Room Temperature,Initiation,homolyze
CC1=CC2(C(C(C1[O])(OO2)C)O)C.[N:10](=O)[O:20]>>CC1=CC2(C(C(C1[O])(OO2)C)O)C.[N+:10](=O)[O-:20] 10-20,Room Temperature,Propagation,ha resonance
"C=C(C)C(CO)O[O:10].[H:20][O:21][O]>>C=C(C)C(CO)O[O:10][H:20].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC([O:20])OC(=O)C.[N+:10](=O)[O-]>>CCCC(OC(=O)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(OCC(C)O)O[O:20].[N:10]=O>>CCCC(OCC(C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:20]1=[C:21](C=C(C(C1O[N+](=O)[O-])O[O:10])C)O>>CC[C:20]12C(C(C(=C[C:21]1O)C)O[O:10]2)O[N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]([H:16])([CH:3]([C:5]([CH3:12])([CH2:6][OH:7])[O:8][N+:9](=[O:11])[O-:10])[O:4])[O:13][O:14][H:15]>>[H:1][C:2]([H:16])[O:13][O:14][H:15].[CH3:12][C:5]([CH2:6][OH:7])([CH:3]=[O:4])[O:8][N+:9](=[O:11])[O-:10] 4-4,3;2,3-3,4;2,3-2",Room Temperature,Propagation,retroaddition
